US07125906B2
To a solution of 1-methyl-3-cyano-5-(3,4,5-trimethoxyphenoxy)-1H-indole (500 mg; 1.47 mmol) in CH2Cl2 (10 ml) was added trimethylsilyl iodide (831 μl; 5.84 mmol). After stirring at room temperature under argon atmosphere for 2 h30, the mixture was poured into cold water, extracted with ethyl acetate. The organic phase was evaporated and the residue was purified by flash chromatography on silica gel, eluting with CH2Cl2/Et2O 1:1 to give 1-methyl-3-cyano-5-(4-hydroxy-3,5-dimethoxyphenoxy)-1H-indole: (244 mg)

reactant | 1-methyl-3-cyano-5-(3,4,5-trimethoxyphenoxy)-1H-indole | 1.47 mmol, 500 mg | CN1C=C(C2=CC(=CC=C12)OC1=CC(=C(C(=C1)OC)OC)OC)C#N | C19H18N2O4
reactant | trimethylsilyl iodide | 5.84 mmol, 831 μl | C[Si](C)(C)I | C3H9ISi
reactant | water | O | H2O
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-methyl-3-cyano-5-(4-hydroxy-3,5-dimethoxyphenoxy)-1H-indole | CN1C=C(C2=CC(=CC=C12)OC1=CC(=C(C(=C1)OC)O)OC)C#N | C18H16N2O4
